US07468364B2
To m-methoxyacetophenone (7.5 g, 50 mmol) and triethylamine (10.5 ml, 75 mmol) in dichloromethane (200 ml) was dropped at 0° C. under stirring trifluoromethanesulfonic acid trimethylsilyl ester (10.9 ml, 60 mmol) and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added at room temperature (2R,3R)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-oxo-2-azetidinyl acetate (14.4 g, 50 mmol) and zinc iodide (9.6 g, 30 mmol), and the mixture was stirred for 2 hours. To the reaction mixture was added a 5% aqueous potassium hydrogensulfate solution (250 ml), and an organic layer was separated by a separatory funnel. An aqueous layer was extracted with chloroform (100 ml×twice). The extract was combined with the organic layer, dried over magnesium sulfate, filtered and concentrated. The residue was purified with silica gel chromatography (silica gel 400 g, hexane:ethyl acetate=2:1˜0:1) to give (3S,4R)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-[2-(3-methoxyphenyl)-2-oxoethyl]azetidin-2-one (15.91 g, yield 84%) as a pale yellowish solid.

reactant | m-methoxyacetophenone | 50 mmol, 7.5 g | COC=1C=C(C=CC1)C(C)=O | C9H10O2
reactant | triethylamine | 75 mmol, 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | (2R,3R)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-oxo-2-azetidinyl acetate | 50 mmol, 14.4 g | C(C)(=O)O[C@H]1NC([C@@H]1[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C13H25NO4Si
reactant | potassium hydrogensulfate | 250 ml | S(=O)(=O)(O)[O-].[K+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | zinc iodide | 30 mmol, 9.6 g | [I-].[Zn+2].[I-]
product | (3S,4R)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-[2-(3-methoxyphenyl)-2-oxoethyl]azetidin-2-one | 15.91 g, yield 84% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1CC(=O)C1=CC(=CC=C1)OC)=O | C20H31NO4Si
